US06800651B2
To a solution of 2-chloro-N-methylaniline (4.96 mmol, 1.1 eq., 702 mg) and pyridine (5.86 mmol, 464 mg) in 20 mL of methylene chloride was added 3-nitrobenzenesulfonyl chloride (4.51 mmol, 1.0 g) in one portion. The reaction mixture was stirred 16 hr and diluted with methylene chloride and water. The aqueous layer was separated and extracted once with methylene chloride. The combined organic layers were extracted once with a saturated solution of aqueous sodium carbonate, once with water, and then dried over sodium sulfate. The crude product was purified using flash chromatography (10-60% ethyl acetate/hexane) to give N-(2-chlorophenyl)-N-methyl-(3-nitrophenyl)sulfonamide which solidifies on standing. 1H NMR (300 MHz) 3.29 (s, 3H), 7.25-7.45 (m, 4H), 7.71 (t, J=7.82 Hz, 1H), 8.06 (d, J=7.82 Hz, 1H), 8.40-8.50 (m, 1H), 8.60-8.65 (m, 1H). MS (ESI): m/e 327.13, 329.13 (M+1).

reactant | 2-chloro-N-methylaniline | 4.96 mmol, 702 mg, 1.1 eq. | ClC1=C(NC)C=CC=C1 | C7H8ClN
reactant | pyridine | 5.86 mmol, 464 mg | N1=CC=CC=C1 | C5H5N
reactant | 3-nitrobenzenesulfonyl chloride | 4.51 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(2-chlorophenyl)-N-methyl-(3-nitrophenyl)sulfonamide | ClC1=C(C=CC=C1)N(S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C13H11ClN2O4S
